### PR TITLE
[Merged by Bors] - feat(Mathlib/Tactic/SeqFocus): implement mapTacs and seqFocus tactics

### PR DESCRIPTION
**Pull request by avigad**
This implements a new tactic, `mapTacs`, which applies a sequence of tactics to the sequence of goals, which is assumed to have the same length. It then uses this tactic to implement `seq_focus` from Lean 3.

### CODE REVIEW

File: Mathlib/Tactic/SeqFocus.lean [hunk 1]
```diff
@@ -0,0 +1,43 @@
...
+-/
+import Lean
+
+open Lean Elab Meta Tactic
+
+namespace Tactic
+
+/-- Assuming there are `n` goals, `mapTacs [t1, t2, ..., tn]` applies each `ti` to the respective
+goal and leaves the resulting subgoals. -/
+elab "mapTacs " "[" ts:tactic,* "]" : tactic => do
```
Comment (digama0) [inline Mathlib/Tactic/SeqFocus.lean:14]:
```suggestion
/-- Assuming there are `n` goals, `map_tacs [t1, t2, ..., tn]` applies each `ti` to the respective
goal and leaves the resulting subgoals. -/
elab "map_tacs " "[" ts:tactic,* "]" : tactic => do
```
Tactics use snake case, because they are keywordish.

File: Mathlib/Tactic/SeqFocus.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+  let mvarIds ← getGoals
+  let tacs := (ts : Array Syntax)
```
Comment (digama0) [inline Mathlib/Tactic/SeqFocus.lean:16]:
```suggestion
  let tacs := ts.getElems
```

File: Mathlib/Tactic/SeqFocus.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+  let length := tacs.size
+  if length < mvarIds.length then
+    throwError "not enough tactics"
+  else if length > mvarIds.length then
+    throwError "too many tactics"
+  let mut mvarIdsNew := #[]
+  for tac in tacs, mvarId in mvarIds do
+    unless (← isExprMVarAssigned mvarId) do
```
Comment (digama0) [inline Mathlib/Tactic/SeqFocus.lean:24]:
```suggestion
    unless ← isExprMVarAssigned mvarId do
```

File: Mathlib/Tactic/SeqFocus.lean [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+          mvarIdsNew := mvarIdsNew.push mvarId
+        else
+          throw ex
+  setGoals mvarIdsNew.toList
+
+/-- `t <;> [t1, t2, ..., tn]` focuses on the first goal and applies `t`, which should result in `n`
+subgoals. It then applies each `ti` to the corresponding goal and collects the resulting
+subgoals. -/
+macro (name := seqFocus) t:tactic " <;> " "[" ts:tactic,* "]" : tactic =>
+  `(tactic| focus ( $t:tactic; mapTacs [$ts,*]) )
```
Comment (digama0) [inline Mathlib/Tactic/SeqFocus.lean:41]:
```suggestion
  `(tactic| focus ($t:tactic; map_tacs [$ts,*]))
```

File: test/SeqFocus.lean [hunk 5]
```diff
@@ -0,0 +1,43 @@
...
+  constructor
+  mapTacs [trivial, exact ⟨0, rfl⟩, trivial]
+
+/-
+-- error: too many tactics
+example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
+  constructor
+  constructor
+  mapTacs [trivial, exact ⟨0, rfl⟩, trivial, trivial]
+-/
```
Comment (digama0) [inline test/SeqFocus.lean:14]:
```suggestion
-- error: too many tactics
example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
  constructor
  constructor
  fail_if_success map_tacs [trivial, exact ⟨0, rfl⟩, trivial, trivial]
```

File: test/SeqFocus.lean [hunk 6]
```diff
@@ -0,0 +1,43 @@
...
+
+/-
+-- error: not enough tactics
+example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
+  constructor
+  constructor
+  mapTacs [trivial, exact ⟨0, rfl⟩]
+-/
```
Comment (digama0) [inline test/SeqFocus.lean:22]:
```suggestion
example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
  constructor
  constructor
  -- error: too many tactics
  fail_if_success map_tacs [trivial, exact ⟨0, rfl⟩, trivial, trivial]
  -- error: not enough tactics
  fail_if_success map_tacs [trivial, exact ⟨0, rfl⟩]
  map_tacs [trivial, exact ⟨0, rfl⟩, trivial]
```

File: test/SeqFocus.lean [hunk 7]
```diff
@@ -0,0 +1,43 @@
...
+  trivial
+  exact ⟨0, rfl⟩
+
+/-
+-- error: not enough tactics
+example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
+  constructor
+  focus
+  constructor <;> [trivial]
+-/
```
Comment (digama0) [inline test/SeqFocus.lean:38]:
```suggestion
example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
  constructor
  -- error: not enough tactics
  fail_if_success constructor <;> [trivial]
  map_tacs [constructor <;> [trivial, exact ⟨0, rfl⟩], constructor]
```

File: test/SeqFocus.lean [hunk 8]
```diff
@@ -0,0 +1,19 @@
...
+
+example : (True ∧ (∃ x : Nat, x = x)) ∧ True := by
+  constructor
+  constructor
+  map_tacs [trivial, exact ⟨0, rfl⟩, trivial]
+
+example : ((True ∧ True) ∧ (∃ x : Nat, x = x)) ∧ (True ∧ (∃ x : Nat, x = x)) := by
+  constructor
+  constructor
+  map_tacs [(constructor; trivial), exact ⟨0, rfl⟩, constructor]
```
Comment (digama0) [inline test/SeqFocus.lean:11]: The fail tests seem to have been removed? They can be added using `fail_if_success` like in my earlier suggestion

Comment (avigad) [reply test/SeqFocus.lean:11]: My apologies! I did not notice the changes. I'll restore the tests as you suggest.
